US06911463B2
To a solution of [2-(7-Hydroxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester (274 mg, 0.900 mmol) in dimethylformamide (15 mL) is added sodium hydride (26 mg, 1.07 mmol). The mixture is stirred at ambient temperature for 25 minutes under nitrogen. 2-Chloro-nicotinonitrile (187 mg, 1.35 mmol) is added and the mixture is heated in an oil bath to eighty degrees Celsius for 15 hours, under nitrogen. Water (50 ml) is added to quench the reaction and the mixture is extracted three times with 50 mL of ethyl acetate. The organic layers are combined and washed twice with 50 mL of 1.00 N sodium hydroxide. The organic layer is dried with sodium sulfate, filtered and the solvent evaporated. The residue is dissolved in dichloromethane and purified using silica gel chromatography (6% 2M ammonia in methanol, 94% dichloromethane used as mobile phase) to give 350 mg (96%) of {2-[7-(3-cyano-pyridin-2-yloxy)-1H-indol-3-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester. FDMS m/e=407 (M++1).

reactant | [2-(7-Hydroxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester | 0.900 mmol, 274 mg | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)O)(C)C)=O | C17H24N2O3
reactant | sodium hydride | 1.07 mmol, 26 mg | [H-].[Na+]
reactant | 2-Chloro-nicotinonitrile | 1.35 mmol, 187 mg | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | Water | 50 ml | O | H2O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | {2-[7-(3-cyano-pyridin-2-yloxy)-1H-indol-3-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester | 350 mg, 96% | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)OC1=NC=CC=C1C#N)(C)C)=O | C23H26N4O3
